US07196087B2
A solution of 5-bromo-1-(3-fluoro-benzyl)-3-methyl-3,4-dihydro-1H-quinazolin-2-one (156 mg, 0.45 mmol) and 1-Boc-piperazine (100 mg, 0.54 mmol) in 1 ml toluene was added to a mixture of Pd2(dba)3 (8 mg, 0.009 mmol), BINAP (2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (14 mg, 0.022 mmol), and NaOt-Bu (65 mg, 0.67 mmol). With stirring, the solution was heated at 95° C.–100° C. for 1 hour and was allowed to cool to room temperature. The reaction mixture was filtered through celite and washed with ethyl acetate. The filtrate was washed with water and brine. After drying over MgSO4, the organic fraction was concentrated in vacuo and resulting brown residue was purified by prep TLC to give 72 mg 4-[1-(3-fluoro-benzyl)-3-methyl-2-oxo-1,2,3,4-tetrahydro-quinazolin-5-yl]-piperazine-1-carboxylic acid tert-butyl ester as yellow solid (75 mg, 35%).

reactant | 5-bromo-1-(3-fluoro-benzyl)-3-methyl-3,4-dihydro-1H-quinazolin-2-one | 0.45 mmol, 156 mg | BrC1=C2CN(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)C | C16H14BrFN2O
reactant | 1-Boc-piperazine | 0.54 mmol, 100 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.022 mmol, 14 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | NaOt-Bu | 0.67 mmol, 65 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.009 mmol, 8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[1-(3-fluoro-benzyl)-3-methyl-2-oxo-1,2,3,4-tetrahydro-quinazolin-5-yl]-piperazine-1-carboxylic acid tert-butyl ester | 72 mg, 35% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2CN(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)C | C25H31FN4O3
